US04055597
Step F: Preparation of 8-Carbamoyl-12-hydroxyheptadecanoic Acid
Ethyl 8-carbamoyl-12-acetoxyheptadecanoate (5.50 g., 0.0138 mole) is added to a solution of sodium hydroxide (1.66 g., 0.0414 mole) in water (8 ml.) and methanol (72 ml.). The resulting solution is allowed to stand 24 hours at 25° C.

reactant | Ethyl 8-carbamoyl-12-acetoxyheptadecanoate | 0.0138 mole, 5.50 g | C(N)(=O)C(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C22H41NO5
reactant | sodium hydroxide | 0.0414 mole, 1.66 g | [OH-].[Na+]
solvent | water | 8 ml | O | H2O
solvent | methanol | 72 ml | CO | CH4O
product | 8-Carbamoyl-12-hydroxyheptadecanoic Acid | C(N)(=O)C(CCCCCCC(=O)O)CCCC(CCCCC)O | C18H35NO4
